US05502036
BOP (2.20g, 5.0 mmol) was added under N2 to a cooled (0°) solution of Boc-Asp-OBzl (1.90 g, 4.6 mmol) in CH2Cl2 (50 ml). After 3 min NHEt2.HCl (0.55 g, 5.0 mmol) and DIPEA (2.4 ml, 1.38 mmol) were added. The resultant solution was stirred at 20°-22° for 18 h. The solution was washed with 10% aqueous citric acid (2 ×), 10% aqueous NaHCO3 (2 ×) and brine (2 ×). The organic layer was dried (MgSO4) and concentrated to give an oil. After SiO2 chromatography of the oil using hexane-EtOAc (7:3) as the eluent, Boc-Asp(NEtz)-OBzl (1.55 g, 89%) was obtained as an oil. Under a N2 atmosphere, a solution of the latter compound (1.55 g, 4.09 mmol) in MeOH (100 ml) was mixed with 5% Pd/C (155 mg). The mixture was shaken on a Parr apparatus under H2 (50 psi) for 90 min. The mixture was filtered through a 45 m membrane and the filtrate concentrated to give Boc7Asp(NEta)-OH (1.15 g, 98%) as an oil. The structure of the product was confirmed by NMR.

reactant | BOP | 5.0 mmol, 2.20g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | Boc-Asp-OBzl | 4.6 mmol, 1.90 g | N([C@@H](CC(O)=O)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C16H21NO6
reactant | NHEt2.HCl | 5.0 mmol, 0.55 g | N(CC)CC.Cl
reactant | DIPEA | 1.38 mmol, 2.4 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | Boc-Asp(NEtz)-OBzl | 1.55 g, 89% | N([C@@H](CC(=O)N(CC)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C26H32N2O7
